US07678801B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-phenylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (26 mg, 0.05 mmol) in DMF (0.5 mL) were added HBTU (28 mg, 0.075 mmol), triethylamine (21.1 uL, 0.15 mmol) and aniline (9.1 uL, 0.1 mmol). The mixture was stirred at rt overnight. To the mixture was added 5 mL dichloromethane and 2 mL water, stirred for 3 min. The organic layer was loaded onto the silica gel column. Chromatography (90% methylene chloride/7% MeOH/3% ammonia) afforded the title compound (9 mg, 30%). LC-MS m/z 597 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.05 mmol, 26 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.075 mmol, 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.15 mmol, 21.1 uL | C(C)N(CC)CC | C6H15N
reactant | aniline | 0.1 mmol, 9.1 uL | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-phenylbenzamide | 9 mg, 30% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC1=CC=CC=C1)C=CC2C)CC | C34H34F2N6O2
